US07465795B2
4-amino-N-cyclopropyl-8-(4-methylpyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 4-methylpyridine-3-boronic acid (128 mg, 0.94 mmol) were reacted. After purification the title compound (96 mg, 64% yield) was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.53 (d, J=5.0 Hz, 1H), 8.50 (bm, 1H), 8.47 (s, 1H), 7.95 (a d, J=8.3 Hz, 1H), 7.77 (t, J=7.7 Hz, 1H), 7.69 (apparent d, J=7.0 Hz, 1H), 2.96 (m, 1H), 2.10(s, 3H), 0.88 (m, 2H), 0.62 (m, 2H). MS APCI, m/z=320, HPLC 1.55 min.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 4-methylpyridine-3-boronic acid | 0.94 mmol, 128 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
product | 4-amino-N-cyclopropyl-8-(4-methylpyridin-3-yl)cinnoline-3-carboxamide | 96 mg, 64% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC=CC1C)C(=O)NC1CC1 | C18H17N5O
